US08937083B2
Preparation of 3-chloro-N-(prop-2-ynyl)-1-(pyridin-3-yl)-1H-pyrazol-4-amine
To a solution of tert-butyl (3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)(prop-2-yn-1-yl)carbamate (2.2 g, 6.61 mmol) in dichloromethane (DCM; 8.3 ml) was added 2,2,2-trifluoroacetic acid (12.06 g, 106 mmol) and the reaction mixture was stirred at ambient temperature for 1 h. The reaction was quenched by the addition of saturated sodium bicarbonate (NaHCO3). The organic layer was extracted with DCM (2×20 mL). The organic layers were combined and dried over sodium sulfate (Na2SO4), filtered and concentrated to afford the title compound as a beige solid (1.5 g, 6.12 mmol, 93%): 1H NMR (400 MHz, CDCl3) δ 8.89 (d, J=2.3 Hz, 1H), 8.50 (dd, J=4.7, 1.4 Hz, 1H), 8.01-7.93 (m, 1H), 7.54 (s, 1H), 7.37 (ddd, J=8.3, 4.8, 0.7 Hz, 1H), 3.90 (s, 2H), 3.38 (s, 1H), 2.44-2.09 (m, 1H); ESIMS m/z 233 ([M+H]+).

reactant | tert-butyl (3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)(prop-2-yn-1-yl)carbamate | 6.61 mmol, 2.2 g | ClC1=NN(C=C1N(C(OC(C)(C)C)=O)CC#C)C=1C=NC=CC1 | C16H17ClN4O2
reactant | 2,2,2-trifluoroacetic acid | 106 mmol, 12.06 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8.3 ml | ClCCl | CH2Cl2
product | 3-chloro-N-(prop-2-ynyl)-1-(pyridin-3-yl)-1H-pyrazol-4-amine | 6.12 mmol, 1.5 g, 93% | ClC1=NN(C=C1NCC#C)C=1C=NC=CC1 | C11H9ClN4
